US07608633B2
E. 1-[3-(4-Octylphenoxy)-2-oxopropyl]indole-3-carboxylic acid
0.072 g (0.151 mmol) tert-butyl-1-[3-(4-octylphenoxy)-2-oxopropyl]indole-3-carboxylate is dissolved in 10 ml absolute dichloromethane and mixed with 1.56 g (13.7 mmol) trifluoroacetic acid. Having stirred at room temperature for 1 hour, concentration to dryness is carried out on the rotary evaporator. Two dissolution steps in toluene and respective concentration on the rotary evaporator leave as the crude product a reddish solid which is recrystallized from petroleum ether/ethyl acetate (67:33) and yields the product as a white solid.

reactant | tert-butyl-1-[3-(4-octylphenoxy)-2-oxopropyl]indole-3-carboxylate | 0.151 mmol, 0.072 g | C(C)(C)(C)OC(=O)C1=CN(C2=CC=CC=C12)CC(COC1=CC=C(C=C1)CCCCCCCC)=O | C30H39NO4
reactant | trifluoroacetic acid | 13.7 mmol, 1.56 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[3-(4-Octylphenoxy)-2-oxopropyl]indole-3-carboxylic acid | C(CCCCCCC)C1=CC=C(OCC(CN2C=C(C3=CC=CC=C23)C(=O)O)=O)C=C1 | C26H31NO4
